US08609849B1
3-Amino-1-benzo[b]thiophen-3-yl-propan-1-ol hydrochloride salt.
3-Benzo[b]thiophen-3-yl-3-hydroxy-propionitrile (1.2 g, 5.90 mmol) was slowly treated with a solution of borane-tetrahydrofuran complex (13 mL, 12.98 mmol, 1M in tetrahydrofuran) at 0° C. After bubbling ceased, the reaction mixture was heated to 75° C. for 2 hours and 6.0 eq of additional borane was added to drive the reaction to completion. The reaction mixture was concentrated. The white solid obtained was treated with methanol (14 mL), followed by hydrogen chloride (2M in diethyl ether, 43 mL). The resulting mixture was heated to reflux for 2 hours, allowed to cool to ambient temperature and then concentrated at reduced pressure. To the residue was added aqueous hydrochloric acid (10 mL, 1 N) followed by diethyl ether (20 mL). The aqueous layers were separated and concentrated at reduced pressure to give the product as a yellow solid (840 mg, 58%).

reactant | 3-Benzo[b]thiophen-3-yl-3-hydroxy-propionitrile | 5.90 mmol, 1.2 g | S1C2=C(C(=C1)C(CC#N)O)C=CC=C2 | C11H9NOS
reactant | borane tetrahydrofuran | 12.98 mmol, 1M, 13 mL | B.O1CCCC1
reactant | borane | 6.0 eq | B | BH3
reactant | hydrogen chloride | 2M, 43 mL | Cl | ClH
solvent | methanol | 14 mL | CO | CH4O
product | 3-Amino-1-benzo[b]thiophen-3-yl-propan-1-ol hydrochloride salt | 840 mg, 58% | Cl.NCCC(O)C=1C2=C(SC1)C=CC=C2 | InChI=1S/C11H13NOS.ClH/c12-6-5-10(13)9-7-14-11-4-2-1-3-8(9)11;/h1-4,7,10,13H,5-6,12H2;1H
